US07358248B2
2-Chloro-4,6-diphenylpyrimidine
A mixture of 2,4,6-trichloropyrimidine, 2.76 g (15.0 mmol), phenylboronic acid, 3.66 g (30.0 mmol), Pd(OAc)2, 86 mg (0.38 mmol), triphenylphosphine, 200 mg (0.76 mmol) in 150 mL of ethylene glycol dimethyl ether was heated to obtain a clear solution. To the solution was added 25 mL of 4.0M aq. Na2CO3. The reaction mixture was refluxed for 24 h at 70° C. The mixture was cooled to room temperature and diluted with 100 mL ethyl acetate. The organic layer was washed with water, sat. aq. NaCl, and dried (MgSO4). After the solution was concentrated, the residue was recrystallized with Et2O-Heptane (1:3) to afford the desired product in 1.64 g (41%) as a pale yellow solid. 1H NMR (CDCl3) 8.15-8.12 (m, 4H), 8.02 (s, 1H), 7.57-7.51 (m, 6H).

reactant | 2,4,6-trichloropyrimidine | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | phenylboronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 4.0M, 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 150 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-Chloro-4,6-diphenylpyrimidine | ClC1=NC(=CC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
